US08426447B2
A glass microwave reaction vessel was charged with (S)-3-chloro-7-(2-fluoro-5-methylpyridin-3-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine (0.100 g, 0.252 mmol), potassium phosphate (0.160 g, 0.756 mmol), 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (0.106 g, 0.504 mmol) and Bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium (II) (8.92 mg, 0.013 mmol) in dioxane (1.2 mL) and water (0.40 mL). The reaction mixture was stirred and heated in microwave at 120° C. for 30 minutes before being diluted with EtOAc and saturated Na2CO3. The organic layer was washed twice with saturated Na2CO3, dried over Na2SO4 and concentrated in vacuo. The crude was purified by silica gel chromatography (2-10% MeOH—CH2Cl2), followed by preparative HPLC (15-60% CH3CN (with 0.1% TFA)-water (with 0.1% TFA) in 20 min) to provide (S)-3-(3,6-dihydro-2H-pyran-4-yl)-7-(2-fluoro-5-methylpyridin-3-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine as a white solid (MS: MH+=445).

reactant | (S)-3-chloro-7-(2-fluoro-5-methylpyridin-3-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine | 0.252 mmol, 0.100 g | ClC1=CC2=C(C=N1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C(=NC=C(C1)C)F | C20H14ClFN4O2
reactant | potassium phosphate | 0.756 mmol, 0.160 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2-(3,6-dihydro-2H-pyran-4-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.504 mmol, 0.106 g | O1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO3
solvent | dioxane | 1.2 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.40 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium (II) | 0.013 mmol, 8.92 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | (S)-3-(3,6-dihydro-2H-pyran-4-yl)-7-(2-fluoro-5-methylpyridin-3-yl)-5′H-spiro[chromeno[2,3-c]pyridine-5,4′-oxazol]-2′-amine | O1CCC(=CC1)C1=CC2=C(C=N1)OC1=CC=C(C=C1[C@]21N=C(OC1)N)C=1C(=NC=C(C1)C)F | C25H21FN4O3
